US08580824B2
To a solution of 2-chloro-6-methoxy-isonicotinic acid methyl ester (1.66 g, 8.23 mmol) in dry THF (50 mL), NMP (1.1 mL, 11.5 mmol) is added. The mixture is cooled to −74° C. before a 2 M solution of isobutylmagnesium chloride (7 mL, 14.0 mmol) in THF is added. Stirring is continued at −75° C. for 1 h, before the mixture is warmed to 0° C. The reaction is quenched by carefully adding water. The mixture is diluted with EA, washed with water followed by brine, dried over MgSO4, filtered and concentrated to give crude 2-isobutyl-6-methoxy-isonicotinic acid methyl ester (1.20 g) as an oil; LC-MS: tR=1.37 min; [M+1]+=224.12.

reactant | 2-chloro-6-methoxy-isonicotinic acid methyl ester | 8.23 mmol, 1.66 g | COC(C1=CC(=NC(=C1)OC)Cl)=O | C8H8ClNO3
reactant | NMP | 11.5 mmol, 1.1 mL | CN1CCCC1=O | C5H9NO
reactant | isobutylmagnesium chloride | 14.0 mmol, 7 mL | C(C(C)C)[Mg]Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-isobutyl-6-methoxy-isonicotinic acid methyl ester | 1.20 g | COC(C1=CC(=NC(=C1)OC)CC(C)C)=O | C12H17NO3
